US07622486B2
Synthesis of (6-chloro-4-morpholin-4-yl-pyridin-2-yl)-(4-trifluoromethoxy-phenyl)-amine
To a solution of 4-(2,6-dichloro-pyridin-4-yl)-morpholine (0.500 g, 2.15 mmol) in toluene (6 mL) were added potassium tert-butoxide (0.109 g, 0.973 mmol), palladium(II)acetate (24.13 mg, 0.107 mmol), BINAP (67.0 mg, 0.107 mmol) and 4-trifluoromethoxyphenylamine (456 mg, 2.58 mmol), in a 10 mL reaction vessel. This reaction mixture was subjected the microwave radiation, in which the microwave power was 250 W, to attain a reaction temperature of 150° C. After this reaction proceeded for 30 min, water (200 mL) was added to the reaction mixture and the reaction product was extracted with ethyl acetate. The organic layer was dried over sodium sulphate, filtered, and the filtrate concentrated under vacuum. The product was purified through column chromatography using 230-400 mesh silica gel (elution 30:70 ethyl acetate:petroleum ether) to afford the desired compound as a light yellow solid (140 mg, yield 18%).

reactant | 4-(2,6-dichloro-pyridin-4-yl)-morpholine | 2.15 mmol, 0.500 g | ClC1=NC(=CC(=C1)N1CCOCC1)Cl | C9H10Cl2N2O
reactant | potassium tert-butoxide | 0.973 mmol, 0.109 g | CC(C)([O-])C.[K+]
reactant | BINAP | 0.107 mmol, 67.0 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-trifluoromethoxyphenylamine | 2.58 mmol, 456 mg | FC(OC1=CC=C(C=C1)N)(F)F | C7H6F3NO
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 0.107 mmol, 24.13 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 200 mL | O | H2O
product | (6-chloro-4-morpholin-4-yl-pyridin-2-yl)-(4-trifluoromethoxy-phenyl)-amine | 140 mg, yield 18% | ClC1=CC(=CC(=N1)NC1=CC=C(C=C1)OC(F)(F)F)N1CCOCC1 | C16H15ClF3N3O2
